US06331541B1
To a solution of 1-(t-butoxycarbonyl)-3-benzylpiperidine (400 mg, 1.45 mmol) in methanol (5 mL) was added hydrogen chloride in dioxane (4M, 15 mL). The resulting yellow solution was stirred for 1 hr, at which time the reaction was concentrated in vacuo to provide 3-benzylpiperidine hydrochloride (308 mg, 100%) as an amorphous solid. 1H NMR (300 MHz, CD3OD), δ: 7.27 (m, 2H,), 7.19 (m, 3H), 3.29 (br. d, 1H, J=12 Hz), 3.20 (br. d, 1H, J=12 Hz), 2.87 (br. t, 1H, J=12 Hz), 2.67 (m, 1H), 2.60 (d, 2H, J=7 Hz), 2.08 (m, 1H) 1.70-1.87 (m, 3H), 1.26 (m, 1H). MS (CI), m+/z: (M+H)+=176.

reactant | 1-(t-butoxycarbonyl)-3-benzylpiperidine | 1.45 mmol, 400 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)CC1=CC=CC=C1 | C17H25NO2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | dioxane | 4M, 15 mL | O1CCOCC1 | C4H8O2
product | 3-benzylpiperidine hydrochloride | 308 mg, 100% | Cl.C(C1=CC=CC=C1)C1CNCCC1 | InChI=1S/C12H17N.ClH/c1-2-5-11(6-3-1)9-12-7-4-8-13-10-12;/h1-3,5-6,12-13H,4,7-10H2;1H
